US08217069B2
5-{6-[2-(tert-Butoxycarbonylamino)ethoxy]-2,3-difluorobenzyloxy}-2-chloroaniline
To a solution of 6-[2-(tert-butoxycarbonylamino)ethoxy]-2,3-difluorobenzyl alcohol (0.54 g), 4-chloro-3-nitrophenol (0.31 g) and triphenylphosphine (0.54 g) in tetrahydrofuran (4 mL) was added diisopropyl azodicarboxylate (40% toluene solution, 1.03 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in tetrahydrofuran (6 mL). To the solution were added methanol (6 mL) and nickel(II) bromide (20 mg). To the mixture was added sodium borohydride (0.2 g) under ice-cooling, and the mixture was stirred at the same temperature for 30 minutes, and then stirred at room temperature for 30 minutes. The reaction mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine twice, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=3/1−1/1) and column chromatography on amino-propylated silica gel (eluent: n-hexane/ethyl acetate=3/1−2/3) successively to give the title compound (0.75 g).

reactant | 6-[2-(tert-butoxycarbonylamino)ethoxy]-2,3-difluorobenzyl alcohol | 0.54 g | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C(=C1CO)F)F | C14H19F2NO4
reactant | 4-chloro-3-nitrophenol | 0.31 g | ClC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | triphenylphosphine | 0.54 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.03 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 5-{6-[2-(tert-Butoxycarbonylamino)ethoxy]-2,3-difluorobenzyloxy}-2-chloroaniline | 0.75 g | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C(=C1COC=1C=CC(=C(N)C1)Cl)F)F | C20H23ClF2N2O4
